US06737409B2
To a stirred solution of AcSMe (24.4 g, 0.27 mol) in THF (580 ml) cooled in an ice-bath was added KOEt (22.8 g, 0.27 mol). After stirring for 3.5 h at room temperature, phenol (11.9 ml, 0.14 mol) and a solution of (2S)-2-(2-benzyloxycarbonyl-propenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (15.6 g, 0.045 mol) in THF (50 ml) were successively added to the mixture. After 45 min, the mixture was quenched with saturated NH4Cl aqueous solution and concentrated in vacuo. The residue was diluted with EtOAc (600 ml), and washed with 1N NaOH aqueous solution (300 ml×3) and saturated brine (200 ml). The organic layer was dried over anhydrous Na2SO4 and then concentrated in vacuo. The residue was purified by column chromatography on silica gel (hexane/EtOAc=9/1) to give (2S)-2-[(1R,2S)-2-benzyloxycarbonyl-1-methylsulfanyl-propyl]-pyrrolidine-1-carboxylic acid tert-butyl ester which was contaminated with PhOH. The collected fraction which included (2S)-2-[(1R,2S)-2-benzyloxycarbonyl-1-methylsulfanyl-propyl]-pyrrolidine-1-carboxylic acid tert-butyl ester was washed with 5N NaOH aqueous solution (300 ml) and H2O (300 ml) to remove phenol, and dried over anhydrous MgSO4. The organic layer was concentrated in vacuo to obtain (2S)-2-[(1R,2S)-2-benzyloxycarbonyl-1-methylsulfanyl-propyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (12.5 g, 70%).

reactant | AcSMe | 0.27 mol, 24.4 g | C(=O)(C)SC | C3H6OS
reactant | KOEt | 0.27 mol, 22.8 g | O([K])CC
reactant | phenol | 0.14 mol, 11.9 ml | C1(=CC=CC=C1)O | C6H6O
reactant | (2S)-2-(2-benzyloxycarbonyl-propenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.045 mol, 15.6 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=C(C)C(=O)OCC1=CC=CC=C1 | C20H27NO4
solvent | THF | 580 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2S)-2-[(1R,2S)-2-benzyloxycarbonyl-1-methylsulfanyl-propyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)[C@@H]([C@@H](C)C(=O)OCC1=CC=CC=C1)SC | C21H31NO4S
